Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___               Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Cephalosporins / Amikin / Sulfa (Sulfonamide 
Antibiotics) / imipenem / Cipro
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
ADMISSION LABS: 

___ 05:41AM BLOOD WBC-23.3* RBC-5.97 Hgb-17.7* Hct-53.0* 
MCV-89 MCH-29.6 MCHC-33.4 RDW-12.1 RDWSD-39.7 Plt ___
___ 05:41AM BLOOD Neuts-93.8* Lymphs-1.6* Monos-3.5* 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-21.84* AbsLymp-0.38* 
AbsMono-0.81* AbsEos-0.03* AbsBaso-0.04
___ 05:41AM BLOOD Glucose-138* UreaN-28* Creat-0.9 Na-136 
K-6.7* Cl-98 HCO3-18* AnGap-20*
___ 10:33AM BLOOD Glucose-137* UreaN-20 Creat-0.8 Na-140 
K-4.5 Cl-104 HCO3-20* AnGap-16
___ 05:41AM BLOOD ALT-28 AST-59* AlkPhos-75 TotBili-1.3
___ 10:33AM BLOOD cTropnT-<0.01
___ 05:32PM BLOOD CK-MB-<1 cTropnT-<0.01
___ 07:30AM BLOOD Calcium-9.3 Phos-1.6* Mg-1.9

DISCHARGE LABS:

___ 07:30AM BLOOD WBC-7.5 RBC-4.81 Hgb-14.4 Hct-42.2 MCV-88 
MCH-29.9 MCHC-34.1 RDW-12.2 RDWSD-39.2 Plt ___
___ 07:30AM BLOOD Glucose-77 UreaN-13 Creat-0.7 Na-141 
K-4.1 Cl-102 HCO3-23 AnGap-16
___ 09:26AM BLOOD K-4.6
 
Brief Hospital Course:
TRANSITIONAL ISSUES
[ ] please follow up with PCP
[ ] did not get formal TTE, however point of care U/S with no 
pericardial effusion  
[ ] consider obtaining formal TTE to assess for 
myocarditis/pericarditis 

# CODE: full (presumed)  

PATIENT SUMMARY: 
==================
___ w/ VP shunt (non-functional) for myelomeningocele, presented 
to the ___ w/ acute nausea and vomiting, found to have new 
SVT and EKG c/f possible pericarditis, was given IVF and had 
improved GI symptoms and resolution of SVT.

ACUTE ISSUES:  
=============
#SVT 
Pt intermittently in a-fib/possible flutter and sinus 
tachycardia on EKG and tele. EKG showed diffuse ST depression 
particularly in the lateral leads and PR elevation in aVR 
concering for pericarditis. Patient otherwise asymptomatic w/ no 
chest pain, dyspnea or pressure. ED POCUS per report w/o e/o 
pericardial effusion.  trop x 2 <1, CMKB <1. CHADS2VASC 0, and 
repeat EKG with resolution of a-fib. Likely etiology secondary 
to possible viral infection vs acute toxin exposure from 
undercooked meat. Did not receive formal TTE before discharge 
however could still could have myocarditis/pericarditis. Did not 
start on colchicine given asymptomatic. 

#N/V/D, RESOLVED
#Viral/toxin induced gastroenteritis
Presented with fever (101.7 F) and WBC 23.3. Was fluid 
resuscitated with basic infection workup negative. Likely toxin 
mediated given acuity of symptoms after eating meat. Resolution 
of symptoms at discharge with normal WBC and afebrile.  

 
Medications on Admission:
None
 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Viral/toxin mediated gastroenteritis
Atrial fibrillation 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted because you had severe nausea, vomiting, 
diarrhea 

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- You were found to have an abnormal EKG pattern which resolved 
to normal before discharge 
- You were given IV fluids and had resolution of your nausea, 
vomiting, diarrhea 
- This was likely caused by a toxin from food you had ate.

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Be sure to take all your medications and attend all of your 
appointments listed below. 

We wish you the best! 

Sincerely, 
Your ___ Team 

 
Followup Instructions:
___